Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine Containing Agents Classifier
 
Attending: ___.
 
Chief Complaint:
Hypotension
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ female with a PMH of HTN, PMR, anemia, IBS, 
and anxiety presents with hypotension and pre-syncope.  
.  
She was recently admitted from ___ with bilateral 
hip/groin pain secondary to PMR and diarrhea secondary to IBS. 
She was treated with prednisone 20mg with great improvement and 
discharged on 10mg prednisone with ___ with her PCP. While 
hospitalized she her lisinopril and HCTZ were held secondary to 
acute renal failure. They were restarted on discharge.  
.  
She reports that since discharge and several times during her 
admission (___) she would develop "head pressure/headache," 
feel hot, and light-headed. These episodes only occured in the 
morning about ___ minutes after her AM medications, 
specifically prednisone and HCTZ. The episodes usually resolve 
after she lays down for about 45minutes. These episodes never 
recur during the day and are not associated with position or 
standing up quickly. The patient also reports that she typically 
has ___ episodes of watery diarrhea in the AM prior to these 
episodes that she attibutes to her IBS. Today the patient had a 
similar episode, but was not able to lay down because she had an 
appointment with her PCP. In the office the patient felt 
light-headed again. Her BP was 75/30 lying down and improved 
only to 90/60 after ___ minutes. The patient reports that she 
felt "dazed" and reports not being able to see and thinking her 
eyes were closed despite having them open. She reports that she 
remembers the entire episode and never lost conciousness. The 
patient was sent to the ED for further evaluation.  
.  
In the ED VS: 97.7 119/50 64 16 97%RA  
The patient was given 325mg ASA and 2L NS. ECG and CXR were 
performed and both were unremarkable. The patient BP improved 
and was 166/42 on transfer to the floor.  
.  
Currently, the patient has no complaints and feel well. She is 
no longer light-headed. She states her BP meds were recently 
changed to HCTZ in the AM, atenolol at noon and lisinopril at 
night to try and even out her BP meds due to her AM 
light-headedness.  

 
Past Medical History:
HTN w/ LVH on ___ ECHO (also w/ +1 AR and +1 TR)  
Anxiety  
Anemia of unknown etiology  
Polymyalgia rheumatica  
Osteopenia  
Irritable bowel syndrome  
.  
- Status post cholecystectomy  
- s/p R rotator cuff repair  
- s/p R Knee meniscal repair  
- S/p R carpel tunnel surgery  

 
Social History:
___
Family History:
Both parents are dead. Mother died at ___ of CA of the 
gallbladder, father at ___ with heart problems but had a history 
of skin cancer. The patient has three children. Her daughter has 
fibromyalgia, breast cancer, and chronic problems with her 
ovaries. There is no known arthritis, thyroid disease, 
psoriasis, inflammatory bowel disease, lupus, rheumatoid 
arthritis, or PMR known in the family. 
 
Physical Exam:
PE: T:98.1 BP:166/68 HR:66 RR:18 O2 100% RA  
Gen: NAD/ Comfortable/ appears stated age/ pleasant  
HEENT: AT/NC, PERRLA, EOMI, anicteric, no conjuctival pallor, 
MMM, clear oropharynx, no erythema, no exudates no rhinorrhea/ 
discharge, no sinus tenderness  
NECK: supple, trachea midline, no LAD  
LUNG: CTA-B/L, no R/R/W  
CV: S1&S2, RRR, II/VI SEM, no G/M  
JVD: flat  
Carotid: no bruit  
ABD: Soft/+BS/ NT/ ND/no rebound/ no guarding/ no hepatomegaly/ 
no splenomegaly  
EXT: No C/C/ trace edema  
+___P, ___ b/l & symetrical  
SKIN: No lesions, rashes, bruises  
NEURO: AAOx3  
CN II-XII grossly intact and non-focal b/l  
___ strength in upper and lower ext b/l  
Sensation to pain, temp, position intact b/l  
Reflexes ___ brachioradialis, biceps, triceps, patellar, 
Achilles  
unremarkable rapid/alternating  
deferred gait  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
___ 09:55AM BLOOD WBC-10.2 RBC-3.88* Hgb-10.5* Hct-32.5* 
MCV-84 MCH-27.2 MCHC-32.4 RDW-13.0 Plt ___
___ 04:40AM BLOOD WBC-10.8 RBC-3.64* Hgb-10.0* Hct-31.0* 
MCV-85 MCH-27.5 MCHC-32.3 RDW-13.1 Plt ___
___ 09:55AM BLOOD Glucose-115* UreaN-30* Creat-1.3* Na-139 
K-4.4 Cl-101 HCO3-31 AnGap-11
___ 04:40AM BLOOD Glucose-79 UreaN-22* Creat-0.9 Na-140 
K-4.5 Cl-104 HCO3-30 AnGap-11
___ 09:55AM BLOOD CK(CPK)-31
___ 05:10PM BLOOD CK(CPK)-38
___ 04:40AM BLOOD CK(CPK)-39
___ 09:55AM BLOOD CK-MB-NotDone
___ 09:55AM BLOOD cTropnT-<0.01
___ 05:10PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 04:40AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 04:40AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.9
___ 05:10PM BLOOD Cortsol-3.6
___ 10:45AM BLOOD Lactate-1.0

Cardiology Report ECG Study Date of ___  9:38:10 AM 
Sinus rhythm. Left ventricular hypertrophy. ST-T wave changes 
most consistent 
with left ventricular hypertrophy. Compared to the previous 
tracing there is 
no significant change.  

CXR ___
IMPRESSION: 
No evidence of acute intrathoracic process. 

Renal U/S and Doppler: ___
IMPRESSION: 
1. No hydronephrosis. 
2. Parvus tardus waveforms in bilateral renal arteries and 
intraparenchymal 
arterial branches, a finding which could indicate bilateral 
renal artery 
stenosis. However, this possibility is not strongly supported by 
the CT 
images of ___, where mild calcified plaque is seen 
at the right 
renal artery ostium. 

 
Brief Hospital Course:
___ female with a PMH of HTN, PMR, anemia, IBS, and anxiety 
presents with hypotension and pre-syncope.  
.  
#. Hypotension/Pre-Syncope: The patient with BP 75/30 in her PCP 
___. Pt has had similar episodes over the last week that only 
occur in the AM. The patient states she has ___ watery BM in the 
morning, then takes HCTZ. Likely patient was volume depleted by 
her diarrhea and exacerbated by her BP med in the AM. These 
episode resolves after lying down and only occurs in the AM. The 
patient states that the episodes correlate with her prednisone 
dosing, unlikely adrenal suppression given patient has only been 
on low dose steriod for short period of time.  The patient was 
volume depleted on admission and in acute renal failure.  She 
received 2L NS in the ED and pressures have improved. There were 
no ECG changes and CE negative x3.  The patient's HCTZ was held 
in the AM and her lisinopril was discontinued over convern for 
renal artery stenosis. The patient remained euvolemic and did 
not have any further episodes during her admission after he HCTZ 
was stopped.  Her BP remained elevated thoughout her admission, 
but near her baseline of 150-160's.  She was not orthostatic, 
but was tested after 2L IVF.  The patient remained asx and was 
discahrged with PCP ___.  
.  
#. HTN: Pt with labile BP as pt admitted for hypotension, but 
currently hypertensive with SBP 166. LVH on ECG. Her BP regimen 
was changed recently due to complaints of dizziness with HCTZ in 
the AM, atenolol at noon and lisinopril in the pm. Her HCTZ was 
stopped as above and her lisinopril was held due to concerns for 
renal artery stenosis.  Her atenolol was increased to 50mg daily 
and continued the noon time dosing given her symptoms usually 
occur in the morning.  The patient has ___ with her PCP 
regarding further titration of her BP meds.
.  
#. Acute Renal Failure: The patient with Cr 1.3 on admission. 
This is higher then her baseline of 0.7-1.0. This is likely 
pre-renal given her chronic diarrhea and HCTZ. The received 2L 
NS in ED and her Cr improved to 0.9.  There was concern over 
renal artery stenosis given her ARF on lisinopril and HTN. She 
underwent U/S doppler that showed wave forms that could be 
consistent with renal artery stenosis, however recent CT scan of 
her abd w/ contrast showed patent renal arteries.  The patient 
was scheduled for outpatient MRA for further evaluation.  Her 
lisinopril was held and not restarted until the results of her 
MRA.   
.  
#. Anemia: Pt with chronic anemia with no documented etiology. 
She has had normal Fe studies/ B12/Folate at the end of ___ 
and normal colonoscopy ___. She was continued on her Fe 
supplements.  It is recommended that the patient have outpatient 
workup for chronic anemia  
.  
#. PMR: Pt admitted on ___ for PMR. She was discahrged on 10mg 
prednisone daily for 7days. On admission she was asx and no 
longer in pain.  She was started on a prednisone taper of 7.5mg 
and will ___ with her PCP.   
.  
#. Irritable Bowel Syndrome: Pt with ___ episodes of watery 
diarrhea per day. Had colonoscopy ___ that was unremarkable.  
She was continued on a high fiber diet. 
.  
#. Anxiety: stable, continued citalopram  
.  
#. Osteopenia: Stable, continued VitD and Ca  
.  
# FEN: Cardiac, high-fiber   
.  
# PPX: heparin SQ
.  
# ACCESS: PIV  
.  
# CODE: FULL- confirmed with patient  
.  
# CONTACT: Daughter: ___  

 
Medications on Admission:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Citalopram 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Tylenol ___ Extra Strength ___ mg Tablet Sig: One (1)  
Tablet PO QHS as needed for insomnia.  
4. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO  
DAILY (Daily).  
5. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1)  
Tablet PO DAILY (Daily).  
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2)  
Tablet PO DAILY (Daily).  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1)  
Tablet, Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
10. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY x7days  

.  

 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
5. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
6. Atenolol 50 mg Tablet Sig: One (1) Tablet PO QNOON ().
Disp:*30 Tablet(s)* Refills:*2*
7. Prednisone 2.5 mg Tablet Sig: as directed Tablet PO DAILY 
(Daily) for 7 days: 7.5mg daily x3 days, 5mg daily x2 days and 
2.5mg daily x2.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Hypotension
Pre-syncope

Secondary:
HTN  
Anxiety  
Anemia  
Polymyalgia rheumatica  
Osteopenia  
Irritable bowel syndrome  

 
Discharge Condition:
stable, ambulating, O2 sat >95%, blood pressure elevated at 160, 
but asymptomatic and at patient's baseline

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  You were admitted to ___ because of feeling 
light-headed and having a low blood pressure.  You were given IV 
fluids and your HCTZ was discontinued.  You were also underwent 
a renal artery ultrasound that were inconclusive.  It is 
recommended that you undergo MRA of your kidneys to futher 
evaluate.  Please call ___ to schedule an appointment.

Please follow the medications prescribed below.
1) Please stop taking your HCTZ and lisinopril for now
2) Please take your atenolol 50mg daily at noon

Please follow up with the appointments below.

Please call your PCP or go to the ED if you experience chest 
pain, palpitations, shortness of breath, nausea, vomiting, 
fevers, chills, or other concerning symptoms.
 
Followup Instructions:
___